US07943768B2
A mixture of n-butyllithium (1.6 M in hexanes, 8.8 ml) and anhydrous ether (20 ml) was stirred at −78° C. under argon and a solution of 2-bromopyridine (1.22 ml) in anhydrous ether (20 ml) added dropwise over 10 minutes. The resulting deep red solution was stirred for 10 minutes and a solution of cyclohexanedione monoethylene ketal (2 g) in tetrahydrofuran (20 ml) then introduced dropwise over 10 minutes. The resulting green suspension was maintained at −78° C. for one hour then warmed to −20° C. and stirred for a further hour, after which a yellow solution had formed. The reaction was quenched with saturated aqueous ammonium chloride (60 ml) and the layers separated. The aqueous was partitioned with dichloromethane (2×80 ml) and combined organics were dried (sodium sulphate) and concentrated in vacuo to give a yellow oil. This was adsorbed onto silica for purification by chromatography eluting with 0-100% ethyl acetate/isohexane to give 8-pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol as a pale yellow solid (1.45 g, 48%).

reactant | n-butyllithium | 1.6 M, 8.8 ml | C(CCC)[Li]
reactant | 2-bromopyridine | 1.22 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | cyclohexanedione monoethylene ketal | 2 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol | 1.45 g, 48% | N1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
